US09290468B2
Methyl 3,4-difluoro-2-((2-fluorophenyl)amino)-5-((4-methoxy benzyl)thio)benzoate can be reacted with azide (such as NaN3, KN3) in appropriate solvent. The reaction is generally carried out at high temperature (60-120° C., prefer 80-100° C.) and normally completes within several hours (1-12 h, prefer 3-10 h). Methyl 4-azido-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate is obtained after conventional workup.

reactant | Methyl 3,4-difluoro-2-((2-fluorophenyl)amino)-5-((4-methoxy benzyl)thio)benzoate | FC=1C(=C(C(=O)OC)C=C(C1F)SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F | C22H18F3NO3S
reactant | azide | [N-]=[N+]=[N-]
product | Methyl 4-azido-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F)F | C22H18F2N4O3S
